US05235068
In 50 ml of dichloroethane were dissolved 10.6 g (0.05 mole) of 3,4,5-trimethoxybenzoic acid and 9.83 g (0.0575 mole) of monochloroacetic anhydride. To the resulting solution were added 5.47 g (0.065 mole) of thiophene and 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 65° C. for 6 hours. After completion of the reaction, the reaction solution was cooled and washed successively with water, 5% aqueous sodium carbonate solution and water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 5.77 g of 2-(3,4,5-trimethoxybenzoyl)thiophene.

reactant | 3,4,5-trimethoxybenzoic acid | 0.05 mole, 10.6 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | monochloroacetic anhydride | 0.0575 mole, 9.83 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | thiophene | 0.065 mole, 5.47 g | S1C=CC=C1 | C4H4S
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 2-(3,4,5-trimethoxybenzoyl)thiophene | 5.77 g, Yield: 41.5% | COC=1C=C(C(=O)C=2SC=CC2)C=C(C1OC)OC | C14H14O4S
